2126-12-02 06:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2126-12-1**] 12:19 PM
   Pt had abdominal pain on arrival to MICU, relieved with Oxycodone.
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Lethargy;
   Codeine
   Nausea/Vomiting
   Nortriptyline
   Lightheadedness
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2126-12-1**] 05:55 PM
   Pantoprazole (Protonix) - [**2126-12-1**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-2**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.3
   HR: 95 (95 - 143) bpm
   BP: 159/95(111) {143/91(103) - 174/114(126)} mmHg
   RR: 13 (0 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.3 kg (admission): 93.3 kg
                  Total In:
                                                                    100 mL
                                                                    100 mL
   PO:
                                                                    100 mL
                                                                    100 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    100 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.55/41/63/ 90/11
   Physical Examination
   General: obese male in NAD
   HEENT: non-injected conjunctiva. cataract in right eye. disconjugate
   gaze. MMM
   CV: RR tachycardic. No murmur appreciated. Chest wound likely from hold
   HD cath site
   Lungs: CTAB no w/r/r appreciated
   Abdomen: +BS , soft and non-tender in all quadrants. Obese
   Ext: no e/c/c, PVD changes
   Neuro: lethargic but easily arousable. disconjugate gaze. right
   cataract. non-injected conjunctiva. Other cranial nerves in tact.
   Bilateral lower extremities are laterally rotated. toes mute.
   Labs / Radiology
   85 mg/dL
    90
   4.3 mEq/L
   91 mEq/L
   140 mEq/L
   39
        [image002.jpg]
                            [**2126-12-1**]  06:36 PM
   Hct
   39
   TCO2
   37
   Glucose
   85
   Other labs: Lactic Acid:1.1 mmol/L
   Assessment and Plan
   65 yo M with PMH of HIV on HAART, DM2, hepatitis C, ESRD on HD who
   presents with abdominal pain for several days.
   .
   # Abdominal pain: Unclear cause. Abdomen is soft and non-tender
   currently but reportedly was epigastric prior (he complains of it
   having been all over) and CT abdomen without contrast though, showed no
   obvious reason for abdominal pain in a diffuse pattern. It did suggest
   that there may be a mass on the head of the pancreas. DDX also includes
   PUD, gastritis (in [**2125**] he had severe gastritis on EGD),
   gastroenteritis (no diarrhea or vomiting though or fevers),
   constipation.
   -Appreciate GI following
   -Will try to organize CT pancreas with contrast on day of next dialysis
   to further evaluate.
   -GI will do EGD when stable to assess for gastritis or PUD.
   -monitor serial abdominal exams
   -will need colonoscopy at some point as well given history of 1cm polyp
   in [**2119**].
   -change ranitidine to PPI [**Hospital1 **] per GI recs.
   -bowel regimen
   .
   # tachycardia: currently in sinus tach with rates in the 120s.  Unclear
   cause ddx includes pain, hyperthyroidism, cardiomyopathy (last ECHO was
   in [**2125**] with EF 50% and LVH with diastolic dysfunction), PE (has
   extensive history of clots but no other signs of PE -not hypoxic,
   hypotensive or having chest pain and he is supratherapeutic with his
   INR). It appears that for his last hospitalization, he came in on
   lopressor but was not discharged on it. This could also be contributing
   to his tachycardia at this time.
   -check TSH
   -check ECHO for cardiomyopathy (HTN related vs HIV related)
   -monitor HR
   -EKG now and in AM
   .
   # DM2: not on medications for this. Will use fingersticks and insulin
   prn
   .
   # chronic systolic and diastolic CHF: currently euvolemic.
   -continue HD for fluid removal
   -fluid restriction to 1.2L per day
   -not on ACEI perhaps given renal failure and not on BB for unclear
   reasons
   .
   # ESRD on HD: had dialysis yesterday. Due on Tues, Thurs, Sat schedule.
   -let renal/dialysis team know he is in house
   -renally dose medications
   -continue sevelamer
   .
   # HIV/AIDs: on HAART. [**6-16**] CD4 was 392 with undetectable viral load
   -continue medications
   -will let Dr. [**Last Name (STitle) 266**] know he is in house.
   .
   # Hepatitis C:
   -continue meds
   .
   # access: history of clots in most veins. OMR notes that femoral line
   with HD cath is last possible site for dialysis catheter. Last
   infection was treated through without removal as it has been noted that
   if he loses this access, he will not be able to have dialysis anymore.
   No PIV is able to be obtained and given clots in neck and chest veins,
   no central access possible either. Patient is aware of situation and
   this was reviewed with him again.
   .
   # FEN: NPO, gentle maintance IVF
   .
   # PPX: on coumadin with supratherapeutic INR currently, bowel reg.
   Wound care consult.
   .
   # Code: full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2126-12-1**] 12:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-12-03 05:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 206.2
C - [**2126-12-2**] 04:00 PM
     * continued abdominal pain, controlled w/dilaudid 1mg IV Q2-4h.
     * Had HD
     * got L hand peripheral line
     * ECHO: IMPRESSION: Suboptimal image quality. Mild symmetric left
       ventricular hypertrophy with mild-moderate global hypokinesis with
       relative preservation of apical segments most suggestive of a
       non-ischemic cardiomyopathy. Mild right ventricular free wall
       hypokinesis. Moderate pulmonary artery systolic hypertension.
       Compared with the prior study (images reviewed) of [**2125-11-17**],
       biventricular systolic function is now depressed (global). The
       estimated pulmonary artery systolic pressure is similar.
     * Abdominal CT: Prelim read: B/L pleural effusions, large hiatal
       hernia, normal GB, minimally dilated intrahepatic bile ducts, head
       of pancreas heterogeneous w/no mass, body and tail of pancreas
       atrophic
     * changed to IV protonix
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Lethargy;
   Codeine
   Nausea/Vomiting
   Nortriptyline
   Lightheadedness
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-3**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 96.8
C (206.2
   Tcurrent: 36.4
C (97.6
   HR: 84 (76 - 108) bpm
   BP: 158/53(80) {146/42(80) - 237/107(124)} mmHg
   RR: 12 (7 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.3 kg (admission): 93.3 kg
                  Total In:
                                                                  1,030 mL
                  PO:
                                                                  1,030 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  4,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,970 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   General: obese male in mild distress
   HEENT: non-injected conjunctiva. cataract in right eye. disconjugate
   gaze. MMM
   CV: RR tachycardic. No murmur appreciated. Chest wound likely from hold
   HD cath site
   Lungs: CTAB no w/r/r appreciated
   Abdomen: +BS , soft and tender diffusely, more so on the right side.
   No rebound, no guarding. Obese
   Ext: no e/c/c, PVD changes
   Neuro: lethargic but easily arousable. disconjugate gaze. right
   cataract. non-injected conjunctiva. Other cranial nerves intact.
   Bilateral lower extremities are laterally rotated. toes mute.
   Labs / Radiology
   164 K/uL
   10.8 g/dL
   70 mg/dL
   3.4 mg/dL
   31 mEq/L
   7.1 mEq/L
   21 mg/dL
   98 mEq/L
   134 mEq/L
   33.6 %
   5.0 K/uL
        [image002.jpg] sample hemolyzed; recheck K+ = 4.7
                            [**2126-12-1**]  06:36 PM
                            [**2126-12-2**]  07:12 AM
                            [**2126-12-3**]  03:43 AM
   WBC
   6.2
   5.0
   Hct
   39
   35.1
   33.6
   Plt
   152
   164
   Cr
   4.6
   3.4
   TCO2
   37
   Glucose
   85
   64
   70
   Other labs: Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL; lactate 1.3;
   PT / PTT / INR: 52.1 / 61.8 / 6.0
   Assessment and Plan
   65 yo M with PMH of HIV on HAART, DM2, hepatitis C, ESRD on HD who
   presents with abdominal pain for several days.
   .
   # Abdominal pain: Continuing and underlying cause remains unclear.
   Abdominal CT unrevealing and does not suggest mass or obstruction in
   the pancrease.  Given history of severe gastritis, this is also a
   possibility.  GI is following and recommends a colonoscopy (hx of polyp
   in [**2119**]), but patient needs better access for sedation and would have
   to reverse INR which carries a risk of clot in HD catheter.  Will need
   to discuss further with nephrology and the patient.
   - Continue IV protonix
   - Appreciate GI following, f/u their recs
   - Attempt midline placement today with assistance from IR.
   - monitor serial abdominal exams
   - bowel regimen
   .
   # Anticoagulation: Patient was on warfarin for anticoagulation at
   home.  Warfarin has been held during hospitalization, however, INR
   still climbing, likely because patient is not eating.
   - encourage PO intake
   - continue to monitor INR
   - consider partial reversal with vitamin K and/or FFP
   .
   # Tachycardia: Resolved.  Patient was admitted in sinus tach with rates
   in the 120s.  It appears that for his last hospitalization, he came in
   on lopressor but was not discharged on it. This could also be
   contributing to his tachycardia at this time.  Most likely secondary to
   pain.   TSH normal.  ECGs show sinus tachycardia.  ECHO suggestive of
   cardiomyopathy and decreased systolic function.
   -continue metoprolol, will not titrate up given cardiomyopathy and
   tachycardia is likely in part compensatory
   -start nifedipine
   -monitor HR
   .
   # Hypertension: Patient is likely chronically hypertensive.  Unable to
   obtain diazoxide in house.  Using metoprolol and nifedipine for BP
   control.  Will consider hydralazine if another [**Doctor Last Name **] is needed.
   - Goal SBP = 160-180
   .
   # DM2: not on medications for this. Will use fingersticks and insulin
   prn
   .
   # chronic systolic and diastolic CHF: currently euvolemic.
   -continue HD for fluid removal
   -fluid restriction to 1.2L per day
   -not on ACEI perhaps given renal failure
   .
   # ESRD on HD: had dialysis yesterday. Usually on Tues, Thurs, Sat
   schedule.  Is receiving MWF this week
   -Renal/dialysis team is following
   -renally dose medications
   -continue sevelamer
   .
   # HIV/AIDs: on HAART. [**6-16**] CD4 was 392 with undetectable viral load
   -continue medications
   -Dr. [**Last Name (STitle) 266**] aware.
   .
   # Hepatitis C:
   -continue meds
   .
   # access: history of clots in most veins. OMR notes that femoral line
   with HD cath is last possible site for dialysis catheter. Last
   infection was treated through without removal as it has been noted that
   if he loses this access, he will not be able to have dialysis anymore.
   -          PIV placed yesterday
   -          Place midline today
   .
   # FEN: Low NA, renal diet
   .
   # PPX: holding coumadin d/t supratherapeutic INR currently, bowel reg.
   Wound care consult.
   .
   # Code: full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2126-12-1**] 12:19 PM
   20 Gauge - [**2126-12-3**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-12-03 10:58:00 Physician Attending Progress Note
Chief Complaint: HOTN
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo with HIV, ESRD on HD, admitted with abdonminal pain and HOTN.
   24 Hour Events:
   Echo with non-ischemic CM with decreasd global systolic fxn.
   CT abd:  heterogenious head of pancreas.
   Still complaining of abdominal pain.  Receiving frequent dilaudid.
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Lethargy;
   Codeine
   Nausea/Vomiting
   Nortriptyline
   Lightheadedness
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2126-12-3**] 07:15 AM
   Other medications:
   Neurontin
   silvadene
   crixivan
   lamivudine
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-3**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 96.8
C (
   Tcurrent: 36.2
C (97.1
   HR: 89 (76 - 108) bpm
   BP: 188/102(123) {137/42(80) - 237/107(124)} mmHg
   RR: 9 (7 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.3 kg (admission): 93.3 kg
                  Total In:
                                                                  1,030 mL
                  PO:
                                                                  1,030 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  4,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,970 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: mild right upper
   quadrant tenderness
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   164 K/uL
   70 mg/dL
   3.4 mg/dL
   31 mEq/L
   4.7 mEq/L
   21 mg/dL
   98 mEq/L
   137 mEq/L
   33.6 %
   5.0 K/uL
        [image002.jpg]
                            [**2126-12-1**]  06:36 PM
                            [**2126-12-2**]  07:12 AM
                            [**2126-12-3**]  03:43 AM
   WBC
   6.2
   5.0
   Hct
   39
   35.1
   33.6
   Plt
   152
   164
   Cr
   4.6
   3.4
   TCO2
   37
   Glucose
   85
   64
   70
   Other labs: PT / PTT / INR:52.1/61.8/6.0, ALT / AST:[**2-15**], Alk Phos / T
   Bili:79/0.6, Amylase / Lipase:45/9, Lactic Acid:1.3 mmol/L, Ca++:8.5
   mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS):  Still having
   pain but not clear cause.  No stones in gallbladder or ureters seen on
   CT.  No chemical evidence of biliary obstruction or pacreatitis.
   Getting dilaudid for pain control.   Continue IV PPI for esophagitis.
   Elevated INR:  was on warfarin, with poor po intake.
 HYPERTENSION, BENIGN:  Add nifedipine
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2126-12-1**] 12:19 PM
   20 Gauge - [**2126-12-3**] 04:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes